US07576241B2
71.1) 1-(4-nitrophenethyl)-4-phenyl-1,2,3,6-tetrahydropyridine
1.29 g (6.6 mmol) of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride, 0.92 ml (6.6 mmol) of Et3N and 1.62 ml (6.6 mmol) of tributylphosphine are added to a solution of 1.0 g (5.98 mmol) of 4-nitrophenethyl alcohol in 25 ml of CH2Cl2. The reaction mixture is agitated vigorously at 23° C. and 1.04 ml (6.6 mmol) of diethylazodicarboxylate is added dropwise. After 4 hours, the reaction is stopped by adding 5 ml of a saturated solution of NH4Cl. After decantation, the aqueous phase is extracted twice with 5 ml of CH2Cl2, the organic phases are combined and washed twice with 5 ml of water, twice with 5 ml of brine, dried over magnesium sulphate, filtered and concentrated under vacuum. The residue is purified on a silica column (eluent Heptane/AcOEt: 9/1 to 7/3) in order to produce 1.20 g of the expected product.

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 6.6 mmol, 1.29 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | Et3N | 6.6 mmol, 0.92 ml | CCN(CC)CC | C6H15N
reactant | tributylphosphine | 6.6 mmol, 1.62 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-nitrophenethyl alcohol | 5.98 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(CCO)C=C1 | C8H9NO3
reactant | diethylazodicarboxylate | 6.6 mmol, 1.04 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-nitrophenethyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 1.20 g | [N+](=O)([O-])C1=CC=C(CCN2CCC(=CC2)C2=CC=CC=C2)C=C1 | C19H20N2O2
